US05364871
Propionic anhydride (76.3 ml) was added dropwise to a mixture of 6-aminomethyl-2-pyridinecarbonitrile hydrochloride (84.1 g) in water (800 ml) under keeping pH 7~8 with 40% aqueous potassium carbonate at ambient temperature and the mixture was stirred at the same temperature for 30 minutes. The aqueous mixture was extracted with ethyl acetate. The extract was dried over magnesium sulfate and evaporated to give 6-(propionylaminomethyl)-2-pyridinecarbonitrile (54.2 g).

reactant | Propionic anhydride | 76.3 ml | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | 6-aminomethyl-2-pyridinecarbonitrile hydrochloride | 84.1 g | Cl.NCC1=CC=CC(=N1)C#N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 800 ml | O | H2O
product | 6-(propionylaminomethyl)-2-pyridinecarbonitrile | 54.2 g | C(CC)(=O)NCC1=CC=CC(=N1)C#N | C10H11N3O
